US06972340B2
methyl 4-{4-[(tert-butoxycarbonyl)amino]butoxy}-2-hydroxy[1,1′-biphenyl]-3-carboxylate
To a mixture of methyl 3-bromo-6-{4-[(tert-butoxycarbonyl)amino]butoxy}-2-hydroxybenzoate (56 mg, 0.134 mmol), tetrakis(triphenylphosphine) palladium (7 mg), 2M Na2CO3 (134 μL, 0.268 mmol) in toluene (1 mL) and ethanol (0.5 mL) was added phenylboronic acid (18 mg, 0.147 mmol). The reaction mixture was heated to 80° C. in a sealed tube overnight, taken up in ethyl acetate, washed with aqueous NaHCO3, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified on silica gel with hexane/ethyl acetate to provide the titled compound (23 mg). MS (ESI(+)) m/e 416 (M+H)+.

reactant | methyl 3-bromo-6-{4-[(tert-butoxycarbonyl)amino]butoxy}-2-hydroxybenzoate | 0.134 mmol, 56 mg | BrC=1C(=C(C(=O)OC)C(=CC1)OCCCCNC(=O)OC(C)(C)C)O | C17H24BrNO6
reactant | Na2CO3 | 0.268 mmol, 2M, 134 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenylboronic acid | 0.147 mmol, 18 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 7 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 4-{4-[(tert-butoxycarbonyl)amino]butoxy}-2-hydroxy[1,1′-biphenyl]-3-carboxylate | 23 mg | C(C)(C)(C)OC(=O)NCCCCOC1=C(C(=C(C=C1)C1=CC=CC=C1)O)C(=O)OC | C23H29NO6
